US04954598
Preparation of [3-(Triethoxysilyl)propyl]carbamic Acid, [2-[[bis (Dimethylamino)methylene]amino]-1-[[3-(trimethoxysilyl)propoxy]methyl]ethyl] Ester
A ten gram sample of N"-[2-hydroxy-3-[3-(trimethoxysilyl)propoxy]propyl]-N,N,N',N'-tetramethylguanidine, prepared in Example 2, was dissolved in 5 g of toluene. To this solution was added, under a stream of argon gas, 7.1 g of 3-isocyanatopropyltriethoxysilane. The resulting mixture was stirred at ambient temperature for one hour. At the end of this time, analysis of the reaction mixture by infrared spectroscopy indicated the absence of hydroxyl function. The reaction mixture, containing 71% by weight of [3-(triethoxysilyl)propyl]carbamic acid, [2-[[bis(dimethylamino)methylene]amino]-1-[[3-(trimethoxysilyl)propoxy]methyl]ethyl]ester, was used without further puriofication as an accelerator.

reactant | N"-[2-hydroxy-3-[3-(trimethoxysilyl)propoxy]propyl]-N,N,N',N'-tetramethylguanidine | OC(CN=C(N(C)C)N(C)C)COCCC[Si](OC)(OC)OC | C14H33N3O5Si
reactant | 3-isocyanatopropyltriethoxysilane | 7.1 g | N(=C=O)CCC[Si](OCC)(OCC)OCC | C10H21NO4Si
solvent | toluene | 5 g | C1(=CC=CC=C1)C | C7H8
product | [3-(Triethoxysilyl)propyl]carbamic Acid, [2-[[bis (Dimethylamino)methylene]amino]-1-[[3-(trimethoxysilyl)propoxy]methyl]ethyl] Ester | C(C)O[Si](CCCNC(OC(CN=C(N(C)C)N(C)C)COCCC[Si](OC)(OC)OC)=O)(OCC)OCC | C24H54N4O9Si2
